US09216980B2
Step 1: 6-(Pyrrolidinylcarbonyl)-3-bromo-9H-dipyrido[2,3-b;4′,3′-d]pyrrole
3-Bromo-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carboxylic acid methyl ester (140 mg, 0.458 mmol) was dissolved in pyrrolidine (6 mL) and the mixture heated to reflux for 2 h. The mixture was allowed to cool and concentrated in vacuo to afford a bright orange oily solid. The residue was used without purification.

reactant | 3-Bromo-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carboxylic acid methyl ester | 0.458 mmol, 140 mg | COC(=O)C1=CC=2C3=C(NC2C=N1)N=CC(=C3)Br | C12H8BrN3O2
solvent | pyrrolidine | 6 mL | N1CCCC1 | C4H9N
product | 6-(Pyrrolidinylcarbonyl)-3-bromo-9H-dipyrido[2,3-b;4′,3′-d]pyrrole | N1(CCCC1)C(=O)C1=CC=2C3=C(NC2C=N1)N=CC(=C3)Br | C15H13BrN4O
